US05547658
These two lipids are homogenized by heating on a hotplate at a temperature of 100° C. and the mixture is then cooled to 40° C. 27.575 g of water in which 3 g of glycerin and 0.02 g of citric acid have previously been dissolved are then added. The whole is homogenized by the action of an ultradisperser of "Virtis" type for 2 minutes at a speed of 40,000 rev/min, at a temperature of 40° C. 3 g of water are then added, in which 0.1 g of stabilizer sold under the trade name "Kathon CG" by Rhom [sic]& Haas and 0.2 g of stabilizer sold under the trade name "Germal 115" by Rhom [sic]& Haas and 0.025 g of melanin obtained by oxidation of 5,6-dihydroxyindole have previously been dissolved.

reactant | water | 27.575 g | O | H2O
reactant | citric acid | 0.02 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | water | 3 g | O | H2O
reactant | Kathon CG | CN1C(=O)C=CS1.CN1C(=O)C=C(S1)Cl
solvent | glycerin | 3 g | OCC(O)CO | C3H8O3
product | 5,6-dihydroxyindole | OC=1C=C2C=CNC2=CC1O | C8H7NO2
